US04617417
B. 8-Chloro-5,6-dimethoxyquinazolin-2,4-dione
A mixture of 1.21 g (4.0 mmol) of methyl 2-carbomethoxy-6-chloro-3,4-dimethoxybenzenecarbamate and 3.17 g (20 mmol) of ammonium acetate was prepared and heated to 128° C. A solution was obtained and after one hour a white solid precipitated. The reaction mixture was cooled to room temperature, 25 mL of water was added, and the reaction mixture was cooled to 5° C. The product was filtered and washed with 2×5 mL of distilled water and 1×10 mL of methanol. Drying under vacuum gave 500 mg (49%) of white product, mp 286°-289° C. NMR (TFA) δ 4.02 (s, 3H, OCH3), 4.12 (s, 3H, OCH3), 7.60 (s, 1H, ArH), 9.68 (br s, 1H, NH).

reactant | methyl 2-carbomethoxy-6-chloro-3,4-dimethoxybenzenecarbamate | 4.0 mmol, 1.21 g | C(=O)(OC)C1=C(C(=CC(=C1OC)OC)Cl)NC(=O)OC | C12H14ClNO6
reactant | ammonium acetate | 20 mmol, 3.17 g | C(C)(=O)[O-].[NH4+]
product | 8-Chloro-5,6-dimethoxyquinazolin-2,4-dione | 500 mg, 49% | ClC=1C=C(C(=C2C(NC(NC12)=O)=O)OC)OC | C10H9ClN2O4
